US05215987
1-[1-[1-(Bis(4-fluorophenyl)methyl]-piperazin-4-yl]-2-hydroxy-3-propanyl]-2,3, 6,7-tetrahydro-3,7-dimethyl-2,6-dioxo-1H-purine
To sodium hydride (0.3 g, 6.25 mmol of 50% with oil, prewashed with pentane) was added dry dimethyl sulfoxide (12 mL) and theobromine (0.9 g, 5 mmol). A fine suspension was formed to which was added 1-(1-chloro-2-hydroxy-3-propanyl)-4-(4, 4'-difluorobenzhydryl)piperazine (1.9 g, 5 mmol) dissolved in dry DMSO (10 mL) over 5 minutes. The mixture was stirred at room temperature under nitrogen for 24 hours and then heated to 70° C. for 20 hours. The DMSO was evaporated in vacuo (1 mmHg) at 75° C. and the residue was triturated in methylene chloride and filtered through Celite®. The filtrate was evaporated in vacuo to give a tacky solid (2.62 g) which was purified by flash chromatography over silica gel using 10% methanol/methylene chloride to give the desired product which was further purified with ether. The ether insoluble material was pure product (0.6 g, 25%), mp 138° -140° C.; DCI/MS: 525; 100 MHz 1H NMR (CDCl3)δ: 7.85 (s, 1H), 7.32 (m, 4H), 6.95 (m, 4H), 4.2 (s, IH), 4.1-4.22 (m, 3H), 3.97 (s, 3H), 3.57 (s, 3H), 2.3-2.5 (m, 10H).

reactant | sodium hydride | 6.25 mmol, 0.3 g | [H-].[Na+]
reactant | theobromine | 5 mmol, 0.9 g | N1C(=O)N(C)C=2N=CN(C)C2C1=O | C7H8N4O2
reactant | 1-(1-chloro-2-hydroxy-3-propanyl)-4-(4, 4'-difluorobenzhydryl)piperazine | 5 mmol, 1.9 g | ClCC(CN1CCN(CC1)C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)O | C20H23ClF2N2O
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 12 mL | CS(=O)C | C2H6OS
product | 1-[1-[1-(Bis(4-fluorophenyl)methyl]-piperazin-4-yl]-2-hydroxy-3-propanyl]-2,3, 6,7-tetrahydro-3,7-dimethyl-2,6-dioxo-1H-purine | 2.62 g | FC1=CC=C(C=C1)C(N1CCN(CC1)CC(CN1C(N(C=2N=CN(C2C1=O)C)C)=O)O)C1=CC=C(C=C1)F | C27H30F2N6O3
